US05684157
(c) Preparation of 2-Propyl-5-Chloroimidazole-4-Carbaldehyde
A solution of 5-chloro-2-propyl-1H-imidazole (1.45 g, 10 mmol), dimethoxymethyldimethylamine (1.55 g. approximately 92 percent pure, 12 mmol) and triethylamine (0.10 g, 1 mmol) in chlorobenzene (50 ml) was heated for 1 hour at 80% and 2.5 hours under reflux, cooled to room temperature and poured into 2M hydrochloric acid (100 ml). The pH was adjusted to pH 1.97 by addition of 30 percent strength sodium hydroxide solution (19 ml) and the mixture was extracted three times, each time with 50 ml of ethyl acetate. The combined organic phases were dried and concentrated on a rotavapor. The yield of the product was 1.27 g (approximately 90 percent pure according to H-NMR), 66 percent based on 5-chloro-2-propyl-1H-imidazole. Other data concerning the product was:

reactant | 5-chloro-2-propyl-1H-imidazole | 10 mmol, 1.45 g | ClC1=CN=C(N1)CCC | C6H9ClN2
reactant | dimethoxymethyldimethylamine | 12 mmol, 1.55 g | COC(OC)N(C)C | C5H13NO2
reactant | triethylamine | 1 mmol, 0.10 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 2M, 100 ml | Cl | ClH
reactant | sodium hydroxide | 19 ml | [OH-].[Na+]
solvent | chlorobenzene | 50 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 2-Propyl-5-Chloroimidazole-4-Carbaldehyde | C(CC)C=1NC(=C(N1)C=O)Cl | C7H9ClN2O
